US07834021B2
Dimethyl 2,2′-(1,3-Dioxolane-2,2-diyl)diacetate.
To a solution of 4.2 g (24 mmol) of dimethyl 3-oxopentanedioate and 2.7 ml (48 mmol) of ethylene glycol in 50 mL of methylene chloride was added 12 mL (96 mmol) of TMSCl at room temperature. The reaction mixture was stirred at 50° C. for 3 days. The reaction was quenched with saturated NaHCO3 aqueous solution. The aqueous layer was extracted with ether. The combined organic layers were washed with brine, dried over Na2SO4, evaporated under reduced pressure. Chromatography on silica gel gave the desired product, dimethyl 2,2′-(1,3-dioxolane-2,2-diyl)diacetate (2.6 g, 12 mmol, yield: 50%): MS (m/e): 219 (M+1)+.

reactant | dimethyl 3-oxopentanedioate | 24 mmol, 4.2 g | O=C(CC(=O)OC)CC(=O)OC | C7H10O5
reactant | ethylene glycol | 48 mmol, 2.7 ml | C(CO)O | C2H6O2
reactant | TMSCl | 96 mmol, 12 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | dimethyl 2,2′-(1,3-dioxolane-2,2-diyl)diacetate | 12 mmol, 2.6 g, yield: 50% | O1C(OCC1)(CC(=O)OC)CC(=O)OC | C9H14O6
